US08044213B2
A solution of 25.64 g (96.0 mmole) of 2-bromo-1-(4-trifluoromethyl-phenyl)-ethanone, 10.27 g (105.7 mmole) of potassium thiocyanate and 130 mL of ethanol (130 mL) was heated to reflux for 2 hours, and then concentrated under reduced pressure. The residue was taken up in 700 mL of ethyl acetate, washed three times with 75 mL of water, then 75 mL of brine, dried over anhydrous sodium sulfate, filtered and concentrated under reduced pressure to give 22.57 g of 2-thiocyanato-1-(4-trifluoromethyl-phenyl)-ethanone as an orange-brown solid.

reactant | 2-bromo-1-(4-trifluoromethyl-phenyl)-ethanone | 96.0 mmole, 25.64 g | BrCC(=O)C1=CC=C(C=C1)C(F)(F)F | C9H6BrF3O
reactant | potassium thiocyanate | 105.7 mmole, 10.27 g | [S-]C#N.[K+]
solvent | ethanol | 130 mL | C(C)O | C2H6O
product | 2-thiocyanato-1-(4-trifluoromethyl-phenyl)-ethanone | 22.57 g | S(C#N)CC(=O)C1=CC=C(C=C1)C(F)(F)F | C10H6F3NOS
